US08791132B2
To a solution of 5-[1-amino-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-pyridine-2-carbonitrile (400 mg, 1.15 mmol) in tert-butanol (20 mL) was added crushed KOH (194 mg, 3.47 mmol) and the reaction mixture was stirred at 80° C. for 1 h. The progress of reaction was monitored by LCMS. The reaction mixture was concentrated to dryness. The residue was diluted with water (50 mL) and extracted with EtOAc (2×100 mL). The combined organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by reverse phase HPLC to yield 5-[1-amino-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-pyridine-2-carboxylic acid amide (70 mg). The racemate can be further separated into the optically active forms by chiral preparative HPLC. 1H NMR (CDCl3, free base) δ (ppm): 8.5 (s, 1H), 8.2 (d, 1H), 7.9 (d, 1H), 7.2 (m, 2H), 7.0 (d, 1H), 5.6 (bs, 1H), 4.6 (t, 1H), 4.1 (d, 2H), 3.7 (q, 2H), 2.9 (t, 2H), 2.8 (m, 1H), 2.6 (m, 1H), 2.58 (s, 3H), 2.42 (s, 3H).

reactant | 5-[1-amino-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-pyridine-2-carbonitrile | 1.15 mmol, 400 mg | NC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C=2C=CC(=NC2)C#N | C21H23N5
reactant | KOH | 3.47 mmol, 194 mg | [OH-].[K+]
solvent | tert-butanol | 20 mL | C(C)(C)(C)O | C4H10O
product | 5-[1-amino-2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-pyridine-2-carboxylic acid amide | 70 mg | NC(CN1C2=C(C=3C=C(C=CC13)C)CN(CC2)C)C=2C=CC(=NC2)C(=O)N | C21H25N5O
